US07781454B2
Step 2: 2-(3-Bromo-5-chlorophenoxy)-3-chloro-6-fluorobenzaldehyde
A round bottom flask was charged with diisopropylamine (1.336 kg, 13.20 moles; 1.2 eqs.) and THF (25 L), and the mixture cooled to −16° C. in a dry ice/acetone bath. A solution of n-butyl lithium (2.5 M; 12.65 moles; 1.17 eqs.) in hexane was added over 25 minutes, while keeping the temperature below 1° C., after which the mixture was aged 20 minutes and then cooled to below −70° C. 3-Bromo-5-chlorophenyl 2-chloro-5-fluorophenyl ether (3.638 kg; 10.8 moles; 1.0 eq.) in THF (4 L) was then added over 35 minutes. The reaction mixture was kept below −60° C. and aged for 1.5 hours, after which DMF (3.683 kg; 50.4 moles; 1.2 eq.) was added over 15 minutes. After aging the mixture a further 50 minutes, the reaction mixture was warmed to −20° C. and quenched with water (5 L). The mixture was then warmed to 15° C., transferred to an extractor (100 L) filled with water (20 L), and extracted with EtOAc (28 L). The organic layer was washed with water (22 L), 1N HCl (25 L), and brine (18 L), and then concentrated to 15 L. Heptane (25 L) was added to the concentrate, and the resulting solution was heated to 60° C. and then concentrated to 18 L as it was cooled to 11° C. The dark yellow suspension was filtered and washed with heptane (5 L), and dried overnight to provide the title product as a solid.

reactant | diisopropylamine | 13.20 moles, 1.336 kg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 12.65 moles, 2.5 M | C(CCC)[Li]
reactant | 3-Bromo-5-chlorophenyl 2-chloro-5-fluorophenyl ether | 10.8 moles, 3.638 kg, 1.0 eq. | ClC1=C(C=C(C=C1)F)OC1=CC(=CC(=C1)Cl)Br | C12H6BrCl2FO
reactant | DMF | 50.4 moles, 3.683 kg, 1.2 eq. | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 4 L | C1CCOC1 | C4H8O
solvent | THF | 25 L | C1CCOC1 | C4H8O
product | 2-(3-Bromo-5-chlorophenoxy)-3-chloro-6-fluorobenzaldehyde | BrC=1C=C(OC2=C(C=O)C(=CC=C2Cl)F)C=C(C1)Cl | C13H6BrCl2FO2
